subckt sky130_fd_pr__cap_vpp_04p4x04p6_m1m2m3_shieldl1m5_floatm4 (c0 c1 b m5)
parameters mult=1.0 ctot_a=10.778e-15 * sky130_fd_pr__cap_vpp_04p4x04p6_m1m2m3_shieldl1__cor + 1.03730 / sqrt(mult / 0.35078) * 0.00731 * 10.778e-15 * sky130_fd_pr__cap_vpp_04p4x04p6_m1m2m3_shieldl1__cor * mc_mm_switch * 0 cli2s=1.840e-15 * cli2s_vpp rat_m3=0.1636 rat_m2=0.4604 rat_m1=0.3318 rat_m12li=0.0442 cap_m3=rat_m3 * ctot_a cap_m2=rat_m2 * ctot_a cap_m1=rat_m1 * ctot_a cap_m12li=rat_m12li * ctot_a cm5_c0=7.39e-16 * c0m5m3_vpp cm5_c1=2.63e-16 * c1m5m3_vpp lm3=1.50 wm3=0.30 nfm3=10.0 nvia2_c0=32.0 nvia2_c1=13.0 lm2=1.585 wm2=0.140 nfm2=28.0 nvia_c0=40.0 nvia_c1=18.0 lm1=1.665 wm1=0.140 nfm1=20.0 nmcon=42.0
ccmvpp4p4x4p6_m3_lim5shield (m5 c0) capacitor c=cm5_c0
cm5_1 (m5 c1) capacitor c=cm5_c1
rm31 (c0 z1) resistor r=rm3 * lm3 / wm3 * (1 / 3) * (1 / nfm3)
cm3 (z1 c1) capacitor c=cap_m3
rvia2_1 (c0 d0) resistor r=rcvia2 / nvia2_c0
rvia2_2 (c1 d1) resistor r=rcvia2 / nvia2_c1
rm21 (d0 a1) resistor r=rm2 * lm2 / wm2 * (1 / 3) * (1 / nfm2)
cm2 (a1 d1) capacitor c=cap_m2
rvia1 (d0 e0) resistor r=rcvia / nvia_c0
rvia2 (d1 e1) resistor r=rcvia / nvia_c1
rm11 (e0 b1) resistor r=rm1 * lm1 / wm1 * (1 / 3) * (1 / nfm1)
cm1 (b1 e1) capacitor c=cap_m1
rmcon (e0 f0) resistor r=rcl1 / nmcon
rliw (f0 g0) resistor r=rl1
cli2b (g0 b) capacitor c=cli2s
cm12li (e1 g0) capacitor c=cap_m12li
ends // sky130_fd_pr__cap_vpp_04p4x04p6_m1m2m3_shieldl1m5_floatm4
