subckt sky130_fd_pr__cap_vpp_11p5x11p7_m1m2m3_shieldl1m5_floatm4 (c0 c1 b m5)
parameters mult=1.0 ctot_a=97.328e-15 * sky130_fd_pr__cap_vpp_11p5x11p7_m1m2m3_shieldl1__cor + 1.03787 / sqrt(mult / 0.35298) * 0.00284 * 97.328e-15 * sky130_fd_pr__cap_vpp_11p5x11p7_m1m2m3_shieldl1__cor * mc_mm_switch * 0 cli2s=7.433e-15 * cli2s_vpp rat_m3=0.1539 rat_m2=0.4074 rat_m1=0.4025 rat_m12li=0.0362 cap_m3=rat_m3 * ctot_a cap_m2=rat_m2 * ctot_a cap_m1=rat_m1 * ctot_a cap_m12li=rat_m12li * ctot_a cm5_c0=3.20e-15 * c0m5m3_vpp cm5_c1=1.97e-15 * c1m5m3_vpp lm3=5.05 wm3=0.30 nfm3=34.0 nvia2_c0=104.0 nvia2_c1=49.0 lm2=5.100 wm2=0.140 nfm2=76.0 nvia_c0=124.0 nvia_c1=62.0 lm1=5.215 wm1=0.140 nfm1=72.0 nmcon=116.0
ccmvpp11p5x11p7_m3_lim5shield (m5 c0) capacitor c=cm5_c0
cm5_1 (m5 c1) capacitor c=cm5_c1
rm31 (c0 z1) resistor r=rm3 * lm3 / wm3 * (1 / 3) * (1 / nfm3)
cm3 (z1 c1) capacitor c=cap_m3
rvia2_1 (c0 d0) resistor r=rcvia2 / nvia2_c0
rvia2_2 (c1 d1) resistor r=rcvia2 / nvia2_c1
rm21 (d0 a1) resistor r=rm2 * lm2 / wm2 * (1 / 3) * (1 / nfm2)
cm2 (a1 d1) capacitor c=cap_m2
rvia1 (d0 e0) resistor r=rcvia / nvia_c0
rvia2 (d1 e1) resistor r=rcvia / nvia_c1
rm11 (e0 b1) resistor r=rm1 * lm1 / wm1 * (1 / 3) * (1 / nfm1)
cm1 (b1 e1) capacitor c=cap_m1
rmcon (e0 f0) resistor r=rcl1 / nmcon
rliw (f0 g0) resistor r=rl1
cli2b (g0 b) capacitor c=cli2s
cm12li (e1 g0) capacitor c=cap_m12li
ends // sky130_fd_pr__cap_vpp_11p5x11p7_m1m2m3_shieldl1m5_floatm4
